US06528504B2
60% sodium hydride (240 mg, 6.0 mmol) was washed with hexane under argon atmosphere, and then suspended in dimethyl sulfoxide (20 ml). After stirring at room temperature for 50 minutes, 5,11-dihydrodibenzo[b,e][1,4]oxazepine (1.20 g, 6.0 mmol) was added to the obtained suspension. They were stirred at room temperature for 60 minutes and then at 50° C. for 60 minutes. A solution of (S)-3-methanesulfonyloxy-1-(4-methoxyphenethyl)pyrrolidine (734 mg, 2.45 mmol) in dimethyl sulfoxide (10 ml) was added dropwise in the obtained solution, and they were stirred at 50° C. for 3 hours. The reaction liquid was poured into ice/water. After the extraction with a solvent mixture of hexane and ethyl acetate (1:1), the organic layer was dried and the solvent was evaporated under reduced pressure. The obtained residue was subjected to silica gel column chromatography. The product was eluted with hexane and ethyl acetate (10:1), then with a mixture of the same solvents (3:1) and finally with a mixture of them (2:1). The appropriate fractions were combined, and the solvent was evaporated under reduced pressure to obtain (R)-5,11-dihydro-5-[1-(4-methoxyphenethyl) pyrrolidine-3-yl]dibenzo[b,e][1,4]oxazepine in the form of a light yellow oil (0.36 g, 36%).

reactant | sodium hydride | 6.0 mmol, 240 mg | [H-].[Na+]
reactant | 5,11-dihydrodibenzo[b,e][1,4]oxazepine | 6.0 mmol, 1.20 g | C1=CC=CC=2NC3=C(OCC21)C=CC=C3 | C13H11NO
reactant | (S)-3-methanesulfonyloxy-1-(4-methoxyphenethyl)pyrrolidine | 2.45 mmol, 734 mg | CS(=O)(=O)O[C@@H]1CN(CC1)CCC1=CC=C(C=C1)OC | C14H21NO4S
solvent | hexane | CCCCCC | C6H14
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | (R)-5,11-dihydro-5-[1-(4-methoxyphenethyl) pyrrolidine-3-yl]dibenzo[b,e][1,4]oxazepine | COC1=CC=C(CCN2C[C@@H](CC2)N2C3=C(OCC4=C2C=CC=C4)C=CC=C3)C=C1 | C26H28N2O2
